US06826033B2
To a solution of N-[4-[(2S)-2-[N-benzyl-N-[(2S)-3-[4-(benzyloxy)phenoxy]-2-hydroxypropyl]amino]-3-hydroxypropyl]-phenyl]-1H-pyrrole-2-carboxamide (40 mg) in methanol (2.0 ml) was added 10% palladium on activated carbon (50% wet, 10 mg) and the mixture was hydrogenated at 1 atm for 3 hours. The catalyst was filtered off and washed with methanol. The filtrate was concentrated in vacuo and the residue was powdered from ether and dried to give N-[4-[(2S)-3-hydroxy-2-[[(2S)-2-hydroxy-3-(4-hydroxyphenoxy)propyl]amino]propyl]-phenyl]-1H-pyrrole-2-carboxamide (26 mg) as a gray powder.

reactant | N-[4-[(2S)-2-[N-benzyl-N-[(2S)-3-[4-(benzyloxy)phenoxy]-2-hydroxypropyl]amino]-3-hydroxypropyl]-phenyl]-1H-pyrrole-2-carboxamide | 40 mg | C(C1=CC=CC=C1)N(C[C@@H](COC1=CC=C(C=C1)OCC1=CC=CC=C1)O)[C@@H](CC1=CC=C(C=C1)NC(=O)C=1NC=CC1)CO | C37H39N3O5
solvent | methanol | 2.0 ml | CO | CH4O
catalyst | palladium on activated carbon | 10 mg | [Pd] | Pd
product | N-[4-[(2S)-3-hydroxy-2-[[(2S)-2-hydroxy-3-(4-hydroxyphenoxy)propyl]amino]propyl]-phenyl]-1H-pyrrole-2-carboxamide | 26 mg | OC[C@H](CC1=CC=C(C=C1)NC(=O)C=1NC=CC1)NC[C@@H](COC1=CC=C(C=C1)O)O | C23H27N3O5
